2160-03-01 09:26:00 Physician Attending Progress Note
Chief Complaint: Septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   50 yo with HCV cirrhosis, prior perforated duodenal ulcer in [**12-9**].
   Presents with increasing back pain, generalized weakness, cough, and
   SOB.  Also has prior h/o guillain-[**Location (un) **].  CT in ED with evidence of
   PNA.
   Central line placed in ED, got 4L IVF, levophed started.  CVP has been
   low at 5.  VBG 7.46/27/104 on 100% NRB.
   24 Hour Events:
 MULTI LUMEN - START [**2160-3-1**] 02:10 AM
 ARTERIAL LINE - START [**2160-3-1**] 05:55 AM
   Allergies:
   Nsaids
   pud withperf;
   Aspirin
   PUD with perf;
   Influenza Virus Vaccine
   [**First Name9 (NamePattern2) 8253**] [**Location (un) **];
   Last dose of Antibiotics:
   Metronidazole - [**2160-3-1**] 03:12 AM
   Piperacillin - [**2160-3-1**] 03:12 AM
   Vancomycin - [**2160-3-1**] 05:00 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Other ICU medications:
   Other medications:
   protonix
   atrovent
   Changes to medical and family history:
   asthma
   syphillis
   polysubstance abuse including cocaine
   pulm HTN
   seizures
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-1**] 09:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 35
C (95
   HR: 105 (105 - 126) bpm
   BP: 113/61(77) {97/38(56) - 120/64(81)} mmHg
   RR: 40 (33 - 45) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (0 - 7)mmHg
   Total In:
                                                                  2,733 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  2,613 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    480 mL
   Urine:
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,253 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: 7.46/27/104/17/-2
   Physical Examination
   General Appearance: mild distress
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : left base, Bronchial:
   left base)
   Abdominal: Soft, Bowel sounds present, Tender: over epigastric area
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   582 K/uL
   98 mg/dL
   0.6 mg/dL
   17 mEq/L
   3.1 mEq/L
   17 mg/dL
   103 mEq/L
   135 mEq/L
   28.8 %
   67.4 K/uL
        [image002.jpg]
                             [**2160-3-1**]  01:22 AM
                             [**2160-3-1**]  06:15 AM
                             [**2160-3-1**]  06:30 AM
   WBC
   60.5
   67.4
   Hct
   29.1
   28.8
   Plt
   560
   582
   Cr
   0.6
   0.6
   TropT
   <0.01
   TCO2
   20
   Glucose
   75
   98
   Other labs: PT / PTT / INR:20.0/89.4/1.9, CK / CKMB /
   Troponin-T:36/2/<0.01, ALT / AST:23/33, Alk Phos / T Bili:165/1.4,
   Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:294 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Respiratory distress:  Left LL PNA with small effusion:  Add atypical
   coverage.  If effusion grows consider taping, but currently too small.
   Septic shock:  Continue IVF boluses and wean down levophed as
   tolerated.
   Leukocytosis:  should also r/o for C. diff and continue flagyl.
   coagulopathy:  unusual that PTT is up, may have liver disease, but
   should recheck and confirm.
   hyponatremia:  mild decrease likely due to PNA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-3-1**] 02:10 AM
   Arterial Line - [**2160-3-1**] 05:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-03-02 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**3-1**] Events:
   - unable to completely wean levo; brought down to 0.1
   - O2 weaned from facemask to 4L nasal canula
   - continued to have tachypnea and respiratory alkalosis
   - when assessing fluid status, had low mixed venous sat - worried about
   cardiac shock, esp with + fluid balance and low [**Name (NI) 949**]
   - pt feeling better subjectively
 BLOOD CULTURED - At [**2160-3-1**] 10:43 AM
 EKG - At [**2160-3-2**] 03:00 AM
   Allergies:
   Nsaids
   pud withperf;
   Aspirin
   PUD with perf;
   Influenza Virus Vaccine
   [**First Name9 (NamePattern2) 8253**] [**Location (un) **];
   Last dose of Antibiotics:
   Vancomycin - [**2160-3-1**] 07:59 PM
   Metronidazole - [**2160-3-2**] 04:00 AM
   Piperacillin - [**2160-3-2**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2160-3-2**] 01:00 AM
   Pantoprazole (Protonix) - [**2160-3-2**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-3-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-2**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.4
C (95.8
   HR: 98 (98 - 115) bpm
   BP: 104/70(83) {87/55(68) - 115/71(84)} mmHg
   RR: 32 (24 - 51) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 19 (5 - 19)mmHg
   Mixed Venous O2% Sat: 36 - 40
   Total In:
                                                                 13,262 mL
                                                                  1,602 mL
   PO:
                                                                    600 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  9,662 mL
                                                                  1,422 mL
   Blood products:
   Total out:
                                                                    872 mL
                                                                    142 mL
   Urine:
                                                                    872 mL
                                                                    142 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,390 mL
                                                                  1,460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.40/26/65/15/-6
   Physical Examination
   General: Alert, oriented, moderate respiratory distress
   HEENT: Sclera anicteric, dryMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: rhonchi and crackles in bases, LLL with egophany, increased
   fremetus.
   CV: Tachy rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffusely tender, non-distended, bowel sounds present,
   healing midline ex-lap wound (dehiscence on caudal end but without
   erythema, drainage)
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   537 K/uL
   8.1 g/dL
   103 mg/dL
   0.6 mg/dL
   15 mEq/L
   4.4 mEq/L
   15 mg/dL
   110 mEq/L
   134 mEq/L
   25.7 %
   36.0 K/uL
        [image002.jpg]
                             [**2160-3-1**]  01:22 AM
                             [**2160-3-1**]  06:15 AM
                             [**2160-3-1**]  06:30 AM
                             [**2160-3-1**]  12:24 PM
                             [**2160-3-1**]  12:51 PM
                             [**2160-3-1**]  07:42 PM
                             [**2160-3-1**]  07:55 PM
                             [**2160-3-2**]  03:13 AM
                             [**2160-3-2**]  03:30 AM
   WBC
   60.5
   67.4
   66.9
   53.9
   36.0
   Hct
   29.1
   28.8
   26.9
   26.1
   25.7
   Plt
   560
   582
   530
   523
   537
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   20
   18
   18
   17
   Glucose
   75
   98
   107
   114
   103
   Other labs: PT / PTT / INR:19.1/43.5/1.8, CK / CKMB /
   Troponin-T:16/2/<0.01, ALT / AST:23/33, Alk Phos / T Bili:165/1.4,
   Differential-Neuts:94.8 %, Band:2.0 %, Lymph:4.1 %, Mono:0.8 %, Eos:0.4
   %, Lactic Acid:2.5 mmol/L, Albumin:1.9 g/dL, LDH:294 IU/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   This is a 50F with HCV iwth septic shock secondary likely to pneumonia
   with respiratory distress.
   .
   # Septic Shock: fever, hypotension, tachycardia, hypoxia, leukocytosis,
   with LLL infiltrate.  Likely Sepsis secondary to pneumonia, but
   leukocytosis so high that could be c.diff, but also empyema.
   - vanc/zosyn/flagyl/po vanc
   - added azithro the morning after admission for atypical coverage
   (urine legionella negative, though)
   - continue current abx regimen for now while waiting for c.diff,
   culture data
   - WBCs trending down, lactate up to 2.5 after LR resuscitation
   - f/u cultures
   - CVP > 12
   - MVP > 65 with levophed, still on 0.1 mcg/hr
   .
   # Leukocytosis:  considering c.diff due to high high leukocytosis
   - cont flagyl/vanc as above for c.diff until cx negative
   .
   # Respiratory Distress:  stable
   - O2 weaned to NC 4L, continue to wean as tolerated
   .
   # Hemodynamics:  over the course of evening after  getting IVFs for
   shock physiology, CVPs started trending upward, JVD high on exam,
   likely with some R heart failure, stable.
   - mixed venous sats low
   - transfuse for goal Hct >30 for better oxygenation
   - would do pre and post mixed venous sats before and after transfusion
   - avoid any more IVFs
   - levofed as needed for pressure support
   # Low urine output:  unclear etiology unless just poor forward flow due
   to heart failure; cr stable
   - will continue to monitor
   - avoid IVFs for now, consider lasix to improve forward flow later this
   afternoon
   - consider obstruction workup if does not improve
   .
   # Hypokalemia:  replete as needed.
   .
   # hyponatremia: likely secondary to hypovolemia or from pulmonary
   process.
   - IVF, treat pna
   .
   # HCV:  No active issues.
   .
   # Coagulopathy: vit K
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: pneumoboots, protonix, SQ hep
   # Access: RIJ, PIVs
   # Code: FULL
   # Communication: Patient
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-3-1**] 02:10 AM
   Arterial Line - [**2160-3-1**] 05:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-03-02 10:16:00 Physician Attending Progress Note
Chief Complaint: respiratory distress, septic shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo women with HCV cirrhosis with PNA.  Doing better with improved
   oxygenation, still on levophed.
   24 Hour Events:
 BLOOD CULTURED - At [**2160-3-1**] 10:43 AM
 EKG - At [**2160-3-2**] 03:00 AM
   Allergies:
   Nsaids
   pud withperf;
   Aspirin
   PUD with perf;
   Influenza Virus Vaccine
   [**First Name9 (NamePattern2) 8253**] [**Location (un) **];
   Last dose of Antibiotics:
   Metronidazole - [**2160-3-2**] 04:00 AM
   Piperacillin - [**2160-3-2**] 04:00 AM
   Vancomycin - [**2160-3-2**] 08:15 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-3-2**] 02:00 AM
   Heparin Sodium (Prophylaxis) - [**2160-3-2**] 06:00 AM
   Morphine Sulfate - [**2160-3-2**] 07:00 AM
   Other medications:
    azithro
   vanco po
   heparin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-2**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.3
C (95.5
   HR: 94 (94 - 115) bpm
   BP: 103/64(79) {87/55(68) - 111/72(87)} mmHg
   RR: 32 (24 - 51) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (5 - 19)mmHg
   Mixed Venous O2% Sat: 36 - 40
   Total In:
                                                                 13,262 mL
                                                                  1,985 mL
   PO:
                                                                    600 mL
                                                                    280 mL
   TF:
   IVF:
                                                                  9,662 mL
                                                                  1,675 mL
   Blood products:
   Total out:
                                                                    872 mL
                                                                    153 mL
   Urine:
                                                                    872 mL
                                                                    153 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,390 mL
                                                                  1,832 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: 7.40/26/65/15/-6
   Physical Examination
   General Appearance: mildly distressed
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Bronchial:
   left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): place, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   537 K/uL
   103 mg/dL
   0.6 mg/dL
   15 mEq/L
   4.4 mEq/L
   15 mg/dL
   110 mEq/L
   134 mEq/L
   25.7 %
   36.0 K/uL
        [image002.jpg]
                             [**2160-3-1**]  01:22 AM
                             [**2160-3-1**]  06:15 AM
                             [**2160-3-1**]  06:30 AM
                             [**2160-3-1**]  12:24 PM
                             [**2160-3-1**]  12:51 PM
                             [**2160-3-1**]  07:42 PM
                             [**2160-3-1**]  07:55 PM
                             [**2160-3-2**]  03:13 AM
                             [**2160-3-2**]  03:30 AM
   WBC
   60.5
   67.4
   66.9
   53.9
   36.0
   Hct
   29.1
   28.8
   26.9
   26.1
   25.7
   Plt
   560
   582
   530
   523
   537
   Cr
   0.6
   0.6
   0.5
   0.5
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   20
   18
   18
   17
   Glucose
   75
   98
   107
   114
   103
   Other labs: PT / PTT / INR:19.1/43.5/1.8, CK / CKMB /
   Troponin-T:16/2/<0.01, ALT / AST:23/33, Alk Phos / T Bili:165/1.4,
   Differential-Neuts:94.8 %, Band:2.0 %, Lymph:4.1 %, Mono:0.8 %, Eos:0.4
   %, Lactic Acid:2.5 mmol/L, Albumin:1.9 g/dL, LDH:294 IU/L, Ca++:7.7
   mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Microbiology: C. diff: no stools yet.
   Assessment and Plan
   Pneumonia:  Continue current antibiotics - vanco/zosyn/azithro.
   Septic shock:   Underlying severe pulmonary hypertension with sepsis.
   Still on levophed, will continue without changes for now.
   Anemia:  Can transfuse 1 unit to improve oxygen delivery.
   Respiratory distress:  improved today.
   ICU Care
   Nutrition:
   Comments: po nutrition
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-3-1**] 02:10 AM
   Arterial Line - [**2160-3-1**] 05:55 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2160-03-03 05:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - transfused 1U PRBC for low HCT and low central venous O2 -> improved
   to 62%
   - blood gases and tachypnea improving
   - still required levophed throughout the day, however able to be weaned
   to 0.06 mcg/kg/ min as of this morning
   - 250 cc NS boluses x 3 given
   - C diff neg x 1
   Allergies:
   Nsaids
   pud withperf;
   Aspirin
   PUD with perf;
   Influenza Virus Vaccine
   [**First Name9 (NamePattern2) 8253**] [**Location (un) **];
   Last dose of Antibiotics:
   Piperacillin - [**2160-3-2**] 04:00 AM
   Azithromycin - [**2160-3-2**] 12:00 PM
   Vancomycin - [**2160-3-2**] 11:59 PM
   Metronidazole - [**2160-3-3**] 04:09 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-3-3**] 04:09 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-3-2**] 10:32 PM
   Pantoprazole (Protonix) - [**2160-3-3**] 02:10 AM
   Morphine Sulfate - [**2160-3-3**] 04:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-3**] 05:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.3
C (95.5
   HR: 95 (90 - 117) bpm
   BP: 91/63(76) {91/62(75) - 115/83(90)} mmHg
   RR: 30 (9 - 51) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 15 (10 - 19)mmHg
   Mixed Venous O2% Sat: 40 - 62
   Total In:
                                                                  4,251 mL
                                                                    569 mL
   PO:
                                                                    530 mL
   TF:
   IVF:
                                                                  3,311 mL
                                                                    569 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    480 mL
                                                                     70 mL
   Urine:
                                                                    430 mL
                                                                     70 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  3,771 mL
                                                                    499 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.41/25/76.[**Numeric Identifier 128**]/14/-6
   Physical Examination
   General: Alert, oriented, moderate respiratory distress
   HEENT: Sclera anicteric, dryMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: rhonchi and crackles in bases, LLL with egophany, increased
   fremetus.
   CV: Tachy rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffusely tender, non-distended, bowel sounds present,
   healing midline ex-lap wound (dehiscence on caudal end but without
   erythema, drainage)
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   678 K/uL
   10.6 g/dL
   98 mg/dL
   0.6 mg/dL
   14 mEq/L
   4.3 mEq/L
   14 mg/dL
   111 mEq/L
   133 mEq/L
   31.7 %
   25.2 K/uL
        [image002.jpg]
                             [**2160-3-1**]  07:42 PM
                             [**2160-3-1**]  07:55 PM
                             [**2160-3-2**]  03:13 AM
                             [**2160-3-2**]  03:30 AM
                             [**2160-3-2**]  01:22 PM
                             [**2160-3-2**]  02:04 PM
                             [**2160-3-2**]  05:01 PM
                             [**2160-3-2**]  05:12 PM
                             [**2160-3-2**]  11:37 PM
                             [**2160-3-3**]  01:45 AM
   WBC
   53.9
   36.0
   25.9
   25.2
   Hct
   26.1
   25.7
   30.7
   31.7
   Plt
   523
   537
   615
   678
   Cr
   0.5
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   18
   17
   12
   16
   Glucose
   114
   103
   146
   100
   98
   Other labs: PT / PTT / INR:18.6/43.7/1.7, CK / CKMB /
   Troponin-T:[**12-3**]/<0.01, ALT / AST:23/33, Alk Phos / T Bili:165/1.4,
   Differential-Neuts:94.8 %, Band:2.0 %, Lymph:4.1 %, Mono:0.8 %, Eos:0.4
   %, Lactic Acid:1.5 mmol/L, Albumin:1.9 g/dL, LDH:294 IU/L, Ca++:7.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 50F with HCV cirrhosis and recent surgery for perforated duod
   ulcer admitted with septic shock likely secondary to pneumonia with
   respiratory distress.
   .
   # Septic Shock: fever, hypotension, tachycardia, hypoxia, leukocytosis,
   with LLL infiltrate.  Likely sepsis secondary to pneumonia, but
   leukocytosis on presentation was very high that C. diff was in
   differential as well as empyema.
   - vanc/zosyn for PNA
   - flagyl/po vanc for empiric therapy of C. diff; C. diff neg x 1 on
   [**3-2**]; will recheck C. diff today
   - discontinue azithro since low suspicion for atypicals (urine
   legionella was neg)
   - monitor WBC
   - f/u cultures
   - CVP > 12
   - Maintain MVP > 60 (pt likely has low-normal baseline BPs given
   cirrhosis; also waveforms on A-line tracing are dampened and A-line not
   drawing- BP reads may not be so accurate)
   .
   # Respiratory Distress:
   - O2 weaned to NC 4L, continue to wean as tolerated
   .
   # Hemodynamics:  over the course of evening after getting IVFs for
   shock physiology, CVPs started trending upward, JVD high on exam,
   likely with some R heart failure, stable.
   - mixed venous sats still low however pt likely has low normal baseline
   BPs (cirrhotic) and pt is mentating well, and UOP picking up.
   - transfused 1u pRBCs overnight
 Hct 31.7 this morning.
   - D/C A line; use cuff pressure readings instead.
   - IVF fluid boluses as necessary
   - Recheck mixed venous saturation again this PM.
   - levophed as needed for pressure support, wean down as tolerated
   # Low urine output:  unclear etiology unless just poor forward flow due
   to heart failure; cr stable; UOP picking up now
   - will continue to monitor
   - consider obstruction workup if does not improve
   .
   # Chronic back pain
   - restart pt
s home dose neurontin
   - IV morphine for breakthrough pain
   .
   # Hypokalemia:  replete as needed.
   .
   # relative hyponatremia: likely secondary to hypovolemia or from
   pulmonary process.
   - stable in low-mid 130s. Treat underlying cause and monitor
   .
   # HCV:  No active issues.
   .
   # Coagulopathy: vit K
   .
   # FEN: No IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: protonix 40 mg daily, SQ hep; get patient OOB, chest PT
   # Access: RIJ, PIVs
   # Code: FULL
   # Communication: Patient
   # Disposition: ICU as pt continuing to require pressor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-3-1**] 02:10 AM
   Arterial Line - [**2160-3-1**] 05:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2160-03-05 14:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - pressors off early yesterday
   - Transitioned to po pain control
   - Given 2L LR overnight as maintenance
   Allergies:
   Nsaids
   pud withperf;
   Aspirin
   PUD with perf;
   Influenza Virus Vaccine
   [**First Name9 (NamePattern2) 8253**] [**Location (un) **];
   Last dose of Antibiotics:
   Azithromycin - [**2160-3-3**] 11:27 AM
   Piperacillin/Tazobactam (Zosyn) - [**2160-3-5**] 03:58 AM
   Metronidazole - [**2160-3-5**] 11:36 AM
   Vancomycin - [**2160-3-5**] 12:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-3-4**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-3-5**] 02:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.3
   HR: 102 (101 - 112) bpm
   BP: 129/80(92) {90/57(56) - 129/89(95)} mmHg
   RR: 25 (19 - 36) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (11 - 18)mmHg
   Total In:
                                                                  5,154 mL
                                                                  2,545 mL
   PO:
                                                                  1,200 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  3,954 mL
                                                                  2,245 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                  1,630 mL
   Urine:
                                                                  1,805 mL
                                                                  1,630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,349 mL
                                                                    915 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%  4L O2
   ABG: ///20/
   Physical Examination
   General: Alert, oriented, moderate respiratory distress
   HEENT: Sclera anicteric, dryMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: rhonchi and crackles in bases,
   CV: Tachy rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, diffusely tender, non-distended, bowel sounds present,
   healing midline ex-lap wound (dehiscence on caudal end but without
   erythema, drainage)
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   623 K/uL
   9.8 g/dL
   109 mg/dL
   0.6 mg/dL
   20 mEq/L
   3.9 mEq/L
   9 mg/dL
   113 mEq/L
   136 mEq/L
   29.6 %
   14.6 K/uL
        [image002.jpg]
                             [**2160-3-2**]  03:13 AM
                             [**2160-3-2**]  03:30 AM
                             [**2160-3-2**]  01:22 PM
                             [**2160-3-2**]  02:04 PM
                             [**2160-3-2**]  05:01 PM
                             [**2160-3-2**]  05:12 PM
                             [**2160-3-2**]  11:37 PM
                             [**2160-3-3**]  01:45 AM
                             [**2160-3-4**]  02:57 AM
                             [**2160-3-5**]  02:01 AM
   WBC
   36.0
   25.9
   25.2
   19.0
   14.6
   Hct
   25.7
   30.7
   31.7
   29.6
   29.6
   Plt
   537
   615
   678
   649
   623
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   17
   12
   16
   Glucose
   103
   146
   100
   98
   89
   109
   Other labs: PT / PTT / INR:19.2/40.4/1.8, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:3.0 mg/dL
   No new micro data
   Assessment and Plan
   This is a 50F with HCV cirrhosis and recent surgery for perforated duod
   ulcer admitted with septic shock likely secondary to pneumonia with
   respiratory distress.
   .
   # Septic Shock: fever, hypotension, tachycardia, hypoxia, leukocytosis,
   with LLL infiltrate.  Likely sepsis secondary to pneumonia, but
   leukocytosis on presentation was very high that C. diff was in
   differential as well as empyema.
   - vanc/zosyn for HAP given recent hospital stay for total of 14 day
   course.
   - flagyl/po vanc for empiric therapy of C. diff; C. diff neg x 1 on
   [**3-2**]; will recheck C. diff once pt has a BM (will start gentle bowel
   regimen)
   - monitor WBC
   - f/u BCx; no growth to date
   - New goal: CVP > 16-18 (give LR boluses). Pt may need higher CVP to
   overcome severe pulm htn
   - Maintain MAP > 60 (pt likely has low-normal baseline BPs given
   cirrhosis)
   .
   # Respiratory Distress:
   - O2 weaned to NC 4L, continue to wean as tolerated
   .
   # Hemodynamics: CVPs adequate (14-17). Mixed venous sat remains
   somewhat low.
   - IVF fluid boluses to keep CVP 16-18.
   - levophed as needed for pressure support, wean down as tolerated as
   long as pt mentating and UOP is adequate
   - Arterial line d/c
d yesterday
   .
   # Low urine output:  Resolved.
   .
   # Acute on chronic back pain; pt complaining of pain over the area of
   PNA.
   - restart pt
s home dose neurontin (pt states it
s for her
   [**Last Name (un) 254**]-[**Location (un) 1935**])
   - IV morphine for breakthrough pain while pt is recovering from PNA.
   - Pt refusing lidocaine patch (
doesn
t work
   .
   # Relative hyponatremia: likely secondary to hypovolemia or from
   pulmonary process causing SIADH.
   - Improving. Will monitor.
   .
   # HCV:  No active issues.
   .
   # Coagulopathy: vit K given. FFP PRN
   .
   # FEN: Consider maintenance IVF, replete electrolytes, regular diet
   .
   # Prophylaxis: protonix 40 mg daily, SQ hep; get patient OOB, PT eval.
   # Access: RIJ -> out after PICC line placement today
   # Code: FULL
   # Communication: Patient
   # Disposition: call out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-3-1**] 02:10 AM
   PICC Line - [**2160-3-5**] 10:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: